US07022707B2
(R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-[2,6-difluoro-3-(3-methoxy-propoxy)-benzyl]ester:
This compound was prepared from (R)-2-ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2,6-difluoro-3-hydroxy-benzyl) ester and toluene-4-sulfonic acid 3-methoxy-propyl ester according to the procedure described in Example 207 to give the product as a colorless oil (117 mg; 97%); MS (ISP): 490.4 (M+NH4)+.

reactant | (R)-2-ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2,6-difluoro-3-hydroxy-benzyl) ester | FC1=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C(=CC=C1O)F | C19H26F2N2O5
reactant | toluene-4-sulfonic acid 3-methoxy-propyl ester | COCCCOS(=O)(=O)C1=CC=C(C=C1)C | C11H16O4S
product | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-[2,6-difluoro-3-(3-methoxy-propoxy)-benzyl]ester | 117 mg, 97% | FC1=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C(=CC=C1OCCCOC)F | C23H34F2N2O6
